### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Triangulated/Adjunction): the right adjoint of a triangulated functor is triangulated

### PR DESCRIPTION
**Pull request by smorel394**
If a functor `F : C ⥤ D` between pretriangulated categories is triangulated, and if we
have an adjunction `F ⊣ G`, then `G` is also a triangulated functor.

We deduce that, if `E : C ≌ D` is an equivalence of pretriangulated categories, then
`E.functor` is triangulated if and only if `E.inverse` is triangulated.

TODO: The case of left adjoints.

- [x] depends on: #20083 [the adjoint of an additive functor is additive]
- [ ] depends on: #20337

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+Copyright (c) 2024 Joël Riou. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joël Riou
+-/
+import Mathlib.CategoryTheory.Triangulated.Functor
+import Mathlib.CategoryTheory.Shift.Adjunction
+import Mathlib.CategoryTheory.Adjunction.Additive
+
+/-!
+# The adjoint is triangulated
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:11]:
```suggestion
# The adjoint functor is triangulated
```

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+          homEquiv_unit, assoc, reassoc_of% hφ, zero_comp])
+      dsimp at ψ hφ ⊢
+      obtain ⟨α, hα⟩ := T.coyoneda_exact₂ hT ((adj.homEquiv _ _).symm ψ)
+        ((adj.homEquiv _ _).injective (by simpa [homEquiv_counit, homEquiv_unit, ← h₁'] using hφ))
+      have eq := congr_arg (adj.homEquiv _ _ ).toFun hα
+      simp only [homEquiv_counit, Functor.id_obj, Equiv.toFun_as_coe, homEquiv_unit,
+        Functor.comp_obj, Functor.map_comp, unit_naturality_assoc, right_triangle_components,
+        comp_id] at eq
+      rw [eq, assoc, assoc]
+      erw [comp_distTriang_mor_zero₁₂ _ mem, comp_zero, comp_zero]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:70]: It would be nice to remove this `erw`.

Comment (smorel394) [reply Mathlib/CategoryTheory/Triangulated/Adjunction.lean]: I remove it in the stupidest possible way.

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 3]
```diff
@@ -0,0 +1,147 @@
...
+attribute [instance] functor_isTriangulated inverse_isTriangulated
+
+/-- Constructor for `Equivalence.IsTriangulated`. -/
+lemma mk' (h : E.functor.IsTriangulated) : E.IsTriangulated where
+  inverse_isTriangulated := E.toAdjunction.isTriangulated_rightAdjoint
+
+/-- Constructor for `Equivalence.IsTriangulated`. -/
+lemma mk'' (h : E.inverse.IsTriangulated) : E.IsTriangulated where
+  functor_isTriangulated := (mk' E.symm h).inverse_isTriangulated
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:142]: Could you add an instance `symm` saying that if the equivalence `E` is triangulated, then so is `E.symm`.

Comment (smorel394) [reply Mathlib/CategoryTheory/Triangulated/Adjunction.lean:142]: I can.

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 4]
```diff
@@ -0,0 +1,153 @@
...
+The right adjoint of a triangulated functor is triangulated.
+-/
+lemma isTriangulated_rightAdjoint : G.IsTriangulated where
+  map_distinguished T hT := by
+    have : G.Additive := adj.right_adjoint_additive
+    dsimp
+    obtain ⟨Z, f, g, mem⟩ := distinguished_cocone_triangle (G.map T.mor₁)
+    obtain ⟨h, ⟨h₁, h₂⟩⟩ := complete_distinguished_triangle_morphism _ _
+      (F.map_distinguished _ mem) hT (adj.counit.app T.obj₁) (adj.counit.app T.obj₂) (by simp)
+    dsimp at h h₁ h₂
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:47]:
```suggestion
    obtain ⟨Z, f, g, mem⟩ := distinguished_cocone_triangle (G.map T.mor₁)
    obtain ⟨h, ⟨h₁, h₂⟩⟩ := complete_distinguished_triangle_morphism _ _
      (F.map_distinguished _ mem) hT (adj.counit.app T.obj₁) (adj.counit.app T.obj₂) (by simp)
    dsimp at h h₁ h₂ ⊢
```

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 5]
```diff
@@ -0,0 +1,153 @@
...
+    have h₁' : f ≫ adj.unit.app Z ≫ G.map h = G.map T.mor₂ := by
+      simpa [homEquiv_apply] using congr_arg (adj.homEquiv _ _).toFun h₁
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:49]:
```suggestion
      simpa [homEquiv_apply] using DFunLike.congr_arg (adj.homEquiv _ _) h₁
```

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 6]
```diff
@@ -0,0 +1,153 @@
...
+    have h₂' : g ≫ (G.commShiftIso (1 : ℤ)).inv.app T.obj₁ =
+        (adj.homEquiv _ _ h) ≫ G.map T.mor₃ := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:51]:
```suggestion
        adj.homEquiv _ _ h ≫ G.map T.mor₃ := by
```

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 7]
```diff
@@ -0,0 +1,153 @@
...
+      dsimp at ψ hφ ⊢
+      obtain ⟨α, hα⟩ := T.coyoneda_exact₂ hT ((adj.homEquiv _ _).symm ψ)
+        ((adj.homEquiv _ _).injective (by simpa [homEquiv_counit, homEquiv_unit, ← h₁'] using hφ))
+      have eq := congr_arg (adj.homEquiv _ _ ).toFun hα
+      simp only [homEquiv_counit, Functor.id_obj, Equiv.toFun_as_coe, homEquiv_unit,
+        Functor.comp_obj, Functor.map_comp, unit_naturality_assoc, right_triangle_components,
+        comp_id] at eq
+      rw [eq, ← assoc, assoc _ _ f]
+      change _ ≫ (Triangle.mk (G.map T.mor₁) f g).mor₁ ≫ (Triangle.mk (G.map T.mor₁) f g).mor₂ = 0
+      rw [comp_distTriang_mor_zero₁₂ _ mem, comp_zero]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:74]:
```suggestion
      have eq := DFunLike.congr_arg (adj.homEquiv _ _ ) hα
      simp only [homEquiv_counit, Functor.id_obj, homEquiv_unit, comp_id,
        Functor.map_comp, unit_naturality_assoc, right_triangle_components] at eq
      have eq' := comp_distTriang_mor_zero₁₂ _ mem
      dsimp at eq eq'
      rw [eq, assoc, assoc, eq', comp_zero, comp_zero]
```

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 8]
```diff
@@ -0,0 +1,153 @@
...
+      constructor
+      · intro φ₁ φ₂ hφ
+        rw [← cancel_mono (adj.homEquiv _ _ h)]
+        exact hφ
+      · intro φ
+        obtain ⟨ψ, hψ⟩ := Triangle.coyoneda_exact₁ _ mem (φ ≫ G.map T.mor₃ ≫
+          (G.commShiftIso (1 : ℤ)).hom.app T.obj₁) (by
+            dsimp
+            simp only [assoc]
+            rw [← G.commShiftIso_hom_naturality, ← G.map_comp_assoc,
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:85]:
```suggestion
            rw [assoc, assoc, ← G.commShiftIso_hom_naturality, ← G.map_comp_assoc,
```

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 9]
```diff
@@ -0,0 +1,153 @@
...
+              comp_distTriang_mor_zero₃₁ _ hT, G.map_zero, zero_comp, comp_zero])
+        dsimp at ψ hψ
+        obtain ⟨α, hα⟩ : ∃ α, α = φ - ψ ≫ (adj.homEquiv _ _) h := ⟨_, rfl⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:88]:
```suggestion
        obtain ⟨α, hα⟩ : ∃ α, α = φ - ψ ≫ adj.homEquiv _ _ h := ⟨_, rfl⟩
```

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 10]
```diff
@@ -0,0 +1,153 @@
...
+        have hα₀ : α ≫ G.map T.mor₃ = 0 := by
+          rw [hα, sub_comp, ← cancel_mono ((Functor.commShiftIso G (1 : ℤ)).hom.app T.obj₁),
+            assoc, sub_comp, assoc, assoc, hψ, zero_comp, sub_eq_zero,
+            ← cancel_mono ((Functor.commShiftIso G (1 : ℤ)).inv.app T.obj₁), assoc,
+            assoc, assoc, assoc, h₂', Iso.hom_inv_id_app, comp_id]
+        suffices ∃ (β : Y ⟶ Z), β ≫ (adj.homEquiv _ _) h = α by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:94]:
```suggestion
        suffices ∃ (β : Y ⟶ Z), β ≫ adj.homEquiv _ _ h = α by
```

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 11]
```diff
@@ -0,0 +1,153 @@
...
+
+namespace Equivalence
+
+variable (E : C ≌ D) [E.functor.CommShift ℤ] [E.inverse.CommShift ℤ] [E.CommShift ℤ]
+
+/--
+We say that an equivalence of categories `E` is triangulated if both `E.functor` and
+`E.inverse` are triangulated functors.
+-/
+class IsTriangulated : Prop where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:127]: Actually, we should first define `Adjunction.IsTriangulated`:
```lean
class IsTriangulated : Prop where
  commShift : adj.CommShift ℤ := by infer_instance
  leftAdjoint_isTriangulated : F.IsTriangulated := by infer_instance
  rightAdjoint_isTriangulated : G.IsTriangulated := by infer_instance
```
Then, the corresponding definition for equivalences can be defined as an `abbrev` similarly as for `CommShift`.
Then, you may also include instances for the identity adjunction, and the composition of adjunctions (and similarly for `Equivalence.refl` and `Equivalence.trans`).

Comment (smorel394) [reply Mathlib/CategoryTheory/Triangulated/Adjunction.lean:148]: A constructor for this class should also be provided, saying that it suffices to prove that the left adjoint is triangulated. (The symmetric constructor should also be provided, of course, but the second will have to wait.)

The `Adjunction.IsTriangulated` instances for the identity and the composition first require similar instances for `Adjunction.CommShift`: #20337

Comment (smorel394) [reply Mathlib/CategoryTheory/Triangulated/Adjunction.lean]: Done.

File: Mathlib/CategoryTheory/Triangulated/Adjunction.lean [hunk 12]
```diff
@@ -0,0 +1,204 @@
...
+namespace Adjunction
+
+variable {F : C ⥤ D} {G : D ⥤ C} (adj : F ⊣ G) [F.CommShift ℤ] [G.CommShift ℤ]
+  [adj.CommShift ℤ] [F.IsTriangulated]
+
+include adj in
+/--
+The right adjoint of a triangulated functor is triangulated.
+-/
+lemma isTriangulated_rightAdjoint : G.IsTriangulated where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Triangulated/Adjunction.lean:40]:
```suggestion
  [adj.CommShift ℤ]

include adj in
/--
The right adjoint of a triangulated functor is triangulated.
-/
lemma isTriangulated_rightAdjoint [F.IsTriangulated] : G.IsTriangulated where
```

**Comment by joelriou** [comment]
As I wrote the original code, there should be a second look:

maintainer merge

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
